US06884868B1
To a solution of 4-methoxycarbonylphenylhydroxyiminomethyl chloride (975 mg) and 1-ethynyl-4-(6-methoxyhexyloxy)benzene (1.06 g) in tetrahydrofuran (10 ml) was added triethylamine (0.83 ml) in tetrahydrofuran (10 ml) over a period of 30 minutes at 40° C., and the mixture was stirred at 40° C. for 3 hours and 30 minutes. The mixture was diluted with dichloromethane and washed with water and brine. The separated organic layer was dried over magnesium sulfate and evaporated under reduced pressure. The residue was triturated with acetonitrile. The precipitate was collected by filtration and dried to give 4-[5-[4-(6-methoxyhexyloxy)phenyl]isoxazol-3-yl]benzoic acid methyl ester (1.37 g).

reactant | 4-methoxycarbonylphenylhydroxyiminomethyl chloride | 975 mg | COC(=O)C1=CC=C(C=C1)C(=NO)Cl | C9H8ClNO3
reactant | 1-ethynyl-4-(6-methoxyhexyloxy)benzene | 1.06 g | C(#C)C1=CC=C(C=C1)OCCCCCCOC | C15H20O2
reactant | triethylamine | 0.83 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[5-[4-(6-methoxyhexyloxy)phenyl]isoxazol-3-yl]benzoic acid methyl ester | 1.37 g | COC(C1=CC=C(C=C1)C1=NOC(=C1)C1=CC=C(C=C1)OCCCCCCOC)=O | C24H27NO5
